* One-port resistive reflection
* Expected results: one_port_0p001.expected.json
Vp out 0 DC 0 AC 1 portnum 1 z0 50
R1 out 0 0.001
.sp dec 3 1k 1meg
.end
